### PR TITLE
Fix sorries in real interpolation main file

### PR DESCRIPTION
**Pull request by jim-portegies**
Fixes all remaining sorries for the real interpolation theorems, except for the definition of the constant in the Lorentz interpolation theorem, and the sorry for the Lorentz interpolation theorem.

### CODE REVIEW

File: Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean [hunk 1]
```diff
@@ -103,6 +117,12 @@ lemma map_restrict_Ioi_eq_restrict_Ioi :
   ext x
   simp +contextual [LT.lt.le]
 
+lemma map_restrict_Ioi_eq_volume :
+    (volume.restrict (Ioi 0)).map ENNReal.ofReal = volume := by
+  refine Eq.trans map_restrict_Ioi_eq_restrict_Ioi ?_
+  refine Measure.restrict_eq_self_of_ae_mem ?_
+  filter_upwards [ae_in_Ioo_zero_top] with a ha; exact ha.1
```
Comment (grunweg) [inline Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean]:
```suggestion
  filter_upwards [ae_in_Ioo_zero_top] with a ha using ha.1

File: Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean [hunk 2]
```diff
@@ -137,6 +157,16 @@ lemma lintegral_nnreal_eq_lintegral_Ioi_ofReal {f : ℝ≥0∞ → ℝ≥0∞} :
   rw [lintegral_nnreal_eq_lintegral_Ici_ofReal]
   exact setLIntegral_congr Ioi_ae_eq_Ici.symm
 
+lemma lintegral_ennreal_eq_lintegral_of_nnreal {f : ℝ≥0∞ → ℝ≥0∞} :
+    ∫⁻ x : ℝ≥0∞, f x = ∫⁻ x : ℝ≥0, f x := by
+  refine Eq.symm (MeasurePreserving.lintegral_comp_emb ⟨by fun_prop, rfl⟩ ?_ f)
+  refine Topology.IsEmbedding.measurableEmbedding isEmbedding_coe ?_
```
Comment (grunweg) [inline Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean]: You can use dot notation more (untested):
```suggestion
  refine isEmbedding_coe.measurableEmbedding ?_

File: Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean [hunk 3]
```diff
@@ -137,6 +157,16 @@ lemma lintegral_nnreal_eq_lintegral_Ioi_ofReal {f : ℝ≥0∞ → ℝ≥0∞} :
...
+  rw [range_coe']; exact measurableSet_Iio
+
+lemma lintegral_ennreal_eq_lintegral_Ioi_ofReal {f : ℝ≥0∞ → ℝ≥0∞} :
+    ∫⁻ x : ℝ≥0∞, f x = ∫⁻ x in Ioi (0 : ℝ), f (.ofReal x) :=
+  Eq.trans lintegral_ennreal_eq_lintegral_of_nnreal lintegral_nnreal_eq_lintegral_Ioi_ofReal
```
Comment (grunweg) [inline Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean]: or here: `foo.trans bar`

File: Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean [hunk 4]
```diff
@@ -137,6 +157,16 @@ lemma lintegral_nnreal_eq_lintegral_Ioi_ofReal {f : ℝ≥0∞ → ℝ≥0∞} :
   rw [lintegral_nnreal_eq_lintegral_Ici_ofReal]
   exact setLIntegral_congr Ioi_ae_eq_Ici.symm
 
+lemma lintegral_ennreal_eq_lintegral_of_nnreal {f : ℝ≥0∞ → ℝ≥0∞} :
+    ∫⁻ x : ℝ≥0∞, f x = ∫⁻ x : ℝ≥0, f x := by
+  refine Eq.symm (MeasurePreserving.lintegral_comp_emb ⟨by fun_prop, rfl⟩ ?_ f)
```
Comment (grunweg) [inline Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean]:
```suggestion
  refine (MeasurePreserving.lintegral_comp_emb ⟨by fun_prop, rfl⟩ ?_ f).symm

File: Carleson/ToMathlib/RealInterpolation/Main.lean [hunk 5]
```diff
@@ -295,128 +295,125 @@ lemma rewrite_norm_func {q : ℝ} {g : α' → E}
...
-  congr 3
-  rw [mul_assoc, mul_comm q, ← mul_assoc]
-  congr 1
-  rw [abs_of_nonneg] <;> try positivity
-  nth_rw 1 [← Real.rpow_one (2 * A), ← Real.rpow_add (by linarith), add_sub_cancel]
+    ENNReal.ofReal ((2 * A) ^ q * q) * ∫⁻ s,
+    distribution g ((ENNReal.ofReal (2 * A) * s))  ν * s^(q - 1) := by
+  calc
+  _ = ENNReal.ofReal ((2 * A) ^ q * q) * ∫⁻ s in Ioi (0 : ℝ),
+      distribution g ((ENNReal.ofReal (2 * A * s)))  ν * (ENNReal.ofReal (s^(q - 1))) := by
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Main.lean]: pre-existing: mathlib style is to put spaces around the powers, as in `s ^ (q - 1)`

File: Carleson/ToMathlib/RealInterpolation/Main.lean [hunk 6]
```diff
@@ -295,128 +295,125 @@ lemma rewrite_norm_func {q : ℝ} {g : α' → E}
...
+    have : 0 < (A : ℝ) := hA
+    rw [lintegral_norm_pow_eq_distribution hg (by linarith)]
+    nth_rewrite 1 [← lintegral_scale_constant_halfspace' (a := (2*A)) (by linarith)]
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Main.lean]: (or here)

File: Carleson/ToMathlib/RealInterpolation/Main.lean [hunk 7]
```diff
@@ -295,128 +295,125 @@ lemma rewrite_norm_func {q : ℝ} {g : α' → E}
...
+    rw [← lintegral_const_mul']; swap; · exact coe_ne_top
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Main.lean]: can you do `rw [← lintegral_const_mul' _ (by finiteness)]` or similar?

File: Carleson/ToMathlib/RealInterpolation/Main.lean [hunk 8]
```diff
@@ -295,128 +295,125 @@ lemma rewrite_norm_func {q : ℝ} {g : α' → E}
...
-    (hq : 0 < q) (tc : ToneCouple) {A : ℝ≥0} (hA : 0 < A)
+    [TopologicalSpace E₁] [ENormedAddCommMonoid E₁] [TopologicalSpace E₂] [ENormedAddCommMonoid E₂]
+    (hq : 0 < q) (tc : StrictRangeToneCouple) {A : ℝ≥0} (hA : 0 < A)
     (ht : Subadditive_trunc T A f ν) (hTf : AEStronglyMeasurable (T f) ν) :
   ∫⁻ x : α', ‖T f x‖ₑ ^ q ∂ν ≤
-  ENNReal.ofReal ((2 * A)^q * q) * ∫⁻ s in Ioi (0 : ℝ), distribution (T (trunc f (tc.ton (ENNReal.ofReal s))))
-      (ENNReal.ofReal s) ν * ENNReal.ofReal (s^(q - 1)) +
-  distribution (T (truncCompl f (tc.ton (ENNReal.ofReal s)))) (ENNReal.ofReal s) ν * ENNReal.ofReal (s^(q - 1)) := by
+  ENNReal.ofReal ((2 * A)^q * q) * ∫⁻ s, distribution (T (trunc f (tc.ton s)))
+      s ν * s^(q - 1) +
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Main.lean]: Put these two on one line now?

File: Carleson/ToMathlib/RealInterpolation/Main.lean [hunk 9]
```diff
@@ -295,128 +295,125 @@ lemma rewrite_norm_func {q : ℝ} {g : α' → E}
...
   have tone := tc.ton_is_ton
   split_ifs at tone
-  · apply aemeasurable_restrict_of_monotoneOn measurableSet_Ioi
-    exact eLpNorm_trunc_mono.comp_monotoneOn (tone.strictMonoOn _).monotoneOn
-  · apply aemeasurable_restrict_of_antitoneOn measurableSet_Ioi
-    exact eLpNorm_trunc_mono.comp_antitoneOn (tone.strictAntiOn  _).antitoneOn
+  · exact (eLpNorm_trunc_mono.comp tone.monotone).measurable
+  · exact (eLpNorm_trunc_mono.comp_antitone tone.antitone).measurable
+
+-- XXX: can this be golfed or unified with `ton_aeMeasurable`?
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Main.lean]: Is this comment still useful?

File: Carleson/ToMathlib/RealInterpolation/Main.lean [hunk 10]
```diff
@@ -295,128 +295,125 @@ lemma rewrite_norm_func {q : ℝ} {g : α' → E}
...
+  rw [ENNReal.ofReal_mul (by simp), ← add_mul]
+  gcongr ?_ * _
+  convert estimate_distribution_Subadditive_trunc (tc.ran_ton a ha).1 ht <;> simp
 
--- XXX: can this be golfed or unified with `ton_aeMeasurable`?
 @[measurability, fun_prop]
-theorem ton_aeMeasurable_eLpNorm_trunc [TopologicalSpace E₁] [ENormedAddCommMonoid E₁] (tc : ToneCouple) :
-    AEMeasurable (fun x ↦ eLpNorm (trunc f (tc.ton x)) p₁ μ) (volume.restrict (Ioi 0)) := by
-  change AEMeasurable ((fun t : ℝ≥0∞ ↦ eLpNorm (trunc f t) p₁ μ) ∘ (tc.ton)) (volume.restrict (Ioi 0))
+theorem ton_Measurable_eLpNorm_trunc [TopologicalSpace E₁] [ENormedAddCommMonoid E₁] (tc : ToneCouple) :
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Main.lean]: Mathlib's naming convention says `ton_measurable_eLpNorm_trunc`

File: Carleson/ToMathlib/RealInterpolation/Main.lean [hunk 11]
```diff
@@ -295,128 +295,125 @@ lemma rewrite_norm_func {q : ℝ} {g : α' → E}
...
-  · apply aemeasurable_restrict_of_antitoneOn measurableSet_Ioi
-    exact eLpNorm_trunc_mono.comp_antitoneOn (tone.strictAntiOn  _).antitoneOn
+  · exact (eLpNorm_trunc_mono.comp tone.monotone).measurable
+  · exact (eLpNorm_trunc_mono.comp_antitone tone.antitone).measurable
+
+-- XXX: can this be golfed or unified with `ton_aeMeasurable`?
+@[measurability, fun_prop]
+theorem ton_aeMeasurable_eLpNorm_trunc [TopologicalSpace E₁] [ENormedAddCommMonoid E₁] (tc : ToneCouple) :
+    AEMeasurable (fun x ↦ eLpNorm (trunc f (tc.ton x)) p₁ μ) volume := by
+  exact (ton_Measurable_eLpNorm_trunc _).aemeasurable
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Main.lean]: Can you remove the `by exact`?

File: Carleson/ToMathlib/RealInterpolation/Main.lean [hunk 12]
```diff
@@ -719,6 +716,8 @@ lemma combine_estimates₀ {A : ℝ≥0} (hA : 0 < A)
       apply add_le_add
       · split_ifs with is_q₁top
         · gcongr
+          rw [lintegral_ennreal_eq_lintegral_Ioi_ofReal]
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Main.lean]: Combine into one?

File: Carleson/ToMathlib/RealInterpolation/Main.lean [hunk 13]
```diff
@@ -964,59 +964,64 @@ lemma exists_hasStrongType_real_interpolation_aux₁ {f : α → E₁}
     -- lemma below proves the same, but for M.toReal
     have M_pos : 0 < M := by
       apply d_pos <;> try assumption
+    have M_lt_top : M < ∞ := by
+      apply lt_top_iff_ne_top.mpr
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Main.lean:959]: Follow-up: can finiteness do this?

File: Carleson/ToMathlib/RealInterpolation/Main.lean [hunk 14]
```diff
@@ -964,59 +964,64 @@ lemma exists_hasStrongType_real_interpolation_aux₁ {f : α → E₁}
...
+      apply d_ne_top <;> assumption
+    let M' := M.toReal
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Main.lean]: You're not using `M'`, right?
```suggestion

File: Carleson/ToMathlib/RealInterpolation/Main.lean [hunk 15]
```diff
@@ -964,59 +964,64 @@ lemma exists_hasStrongType_real_interpolation_aux₁ {f : α → E₁}
...
+    have : 0 < M.toReal := toReal_pos M_pos.ne' M_lt_top.ne
+    have : ENNReal.ofReal M.toReal = M := by rw [ofReal_toReal M_lt_top.ne]
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Main.lean:962]: This is unused, right?

File: Carleson/ToMathlib/RealInterpolation/Minkowski.lean [hunk 16]
```diff
@@ -790,7 +789,7 @@ lemma eLpNorm_trnc_est {f : α → E₁} {j : Bool} :
     eLpNorm (trnc j f t) p μ ≤ eLpNorm f p μ := eLpNorm_mono_enorm fun _x ↦ trnc_le_func
 
 variable [ContinuousENorm ε₁] [ContinuousENorm ε₂] {T : (α → ε₁) → (α' → ε₂)} in
-@[nolint unusedHavesSuffices] -- TODO: remove once the sorries are fixed
+
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Minkowski.lean]:
```suggestion

File: Carleson/ToMathlib/RealInterpolation/Misc.lean [hunk 17]
```diff
@@ -52,6 +53,12 @@ structure ToneCouple where
       then ∀ s t, (ton s < t ↔ s < inv t) ∧ (t < ton s ↔ inv t < s)
       else ∀ s t, (ton s < t ↔ inv t < s) ∧ (t < ton s ↔ s < inv t)
 
+/-- A StrictRangeToneCouple is a tonecouple for which the functions in the couple, when
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Misc.lean]:
```suggestion
-- A StrictRangeToneCouple is a `ToneCouple` for which the functions in the couple, when
restricted to `Ioo 0 ∞`, map to `Ioo 0 ∞`. -/

File: Carleson/ToMathlib/RealInterpolation/Misc.lean [hunk 18]
```diff
@@ -73,13 +80,47 @@ lemma ENNReal.rpow_lt_rpow_iff_neg {x y : ℝ≥0∞} (hx : x ≠ 0) (hy : y ≠
...
+
+lemma ENNReal.rpow_lt_top_of_pos_ne_top_ne_zero {x : ℝ≥0∞} {y : ℝ} (hx : x ≠ 0)
+    (hx' : x ≠ ⊤) (hy : y ≠ 0) :
+    x ^ y < ⊤ := by
+  rcases lt_or_gt_of_ne hy with y_pos | y_neg
+  · exact rpow_lt_top_of_neg (hx.bot_lt) y_pos
+  · exact rpow_lt_top_of_nonneg (y_neg.le) hx'
+
+
+
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Misc.lean]:
```suggestion

File: Carleson/ToMathlib/RealInterpolation/Misc.lean [hunk 19]
```diff
@@ -73,13 +80,47 @@ lemma ENNReal.rpow_lt_rpow_iff_neg {x y : ℝ≥0∞} (hx : x ≠ 0) (hy : y ≠
...
+    x ^ y < ⊤ := by
+  refine ENNReal.inv_lt_inv.mp ?_
+  have := hx.ne'
+  have := hy.le
+  simp only [inv_top, ENNReal.inv_pos, ne_eq, rpow_eq_top_iff, not_or, not_and, not_lt]
+  tauto
+
+
+
+
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Misc.lean]:
```suggestion

File: Carleson/ToMathlib/RealInterpolation/Misc.lean [hunk 20]
```diff
@@ -73,13 +80,47 @@ lemma ENNReal.rpow_lt_rpow_iff_neg {x y : ℝ≥0∞} (hx : x ≠ 0) (hy : y ≠
 lemma ENNReal.div_lt_div {a b c : ℝ≥0∞} (hc : 0 < c) (hc' : c ≠ ∞) : a / c < b / c ↔ a < b := by
   rw [ENNReal.div_lt_iff (Or.inl hc.ne') (Or.inl hc'), ENNReal.div_mul_cancel hc.ne' hc']
 
+lemma ENNReal.rpow_lt_top_of_neg {x : ℝ≥0∞} {y : ℝ} (hx : 0 < x) (hy : y < 0) :
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Misc.lean:83]: I have the nagging feeling I proved something like this already --- let me check and report back.

File: Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean (hunk 1 above)
Comment (jim-portegies) [reply Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean]: I would swear I had tried this, lol. Thanks!

File: Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean (hunk 2 above)
Comment (jim-portegies) [reply Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean]: This works, thanks!

File: Carleson/ToMathlib/RealInterpolation/Main.lean (hunk 15 above)
Comment (jim-portegies) [reply Carleson/ToMathlib/RealInterpolation/Main.lean:962]: These are actually used implicitly by the `assumption` tactic later

File: Carleson/ToMathlib/RealInterpolation/Main.lean (hunk 9 above)
Comment (jim-portegies) [reply Carleson/ToMathlib/RealInterpolation/Main.lean]: This particular lemma is obsolete, I'll remove it. For the lemma above, on the other hand, I'll add a todo that the infrastructure can perhaps be improved

File: Carleson/ToMathlib/RealInterpolation/Main.lean (hunk 11 above)
Comment (jim-portegies) [reply Carleson/ToMathlib/RealInterpolation/Main.lean]: I removed the whole lemma :)

File: Carleson/ToMathlib/RealInterpolation/Main.lean (hunk 13 above)
Comment (jim-portegies) [reply Carleson/ToMathlib/RealInterpolation/Main.lean:959]: Not right now... , maybe it is because we use `d_ne_top`. Should I try to put the finiteness attribute onto it there?

Comment (grunweg) [reply Carleson/ToMathlib/RealInterpolation/Main.lean:959]: Sure, let's try that!

File: Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean (hunk 3 above)
Comment (jim-portegies) [reply Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean]: Also worked.

File: Carleson/ToMathlib/RealInterpolation/Main.lean (hunk 5 above)
Comment (jim-portegies) [reply Carleson/ToMathlib/RealInterpolation/Main.lean]: Changed this in a few places (not consistently yet)

File: Carleson/ToMathlib/RealInterpolation/Main.lean (hunk 7 above)
Comment (jim-portegies) [reply Carleson/ToMathlib/RealInterpolation/Main.lean]: A slight variation worked

File: Carleson/ToMathlib/RealInterpolation/Main.lean (hunk 8 above)
Comment (jim-portegies) [reply Carleson/ToMathlib/RealInterpolation/Main.lean]: Yup

File: Carleson/ToMathlib/RealInterpolation/Main.lean (hunk 10 above)
Comment (jim-portegies) [reply Carleson/ToMathlib/RealInterpolation/Main.lean]: Changed it, thanks

File: Carleson/ToMathlib/RealInterpolation/Main.lean (hunk 12 above)
Comment (jim-portegies) [reply Carleson/ToMathlib/RealInterpolation/Main.lean]: thx
